US04775675
5,5-Dimethyl-2-(4-hydroxyphenyl)-thiazolidine-4(S)-carboxylic acid
1.26 g (10 mmoles) of 4-hydroxybenzaldehyde dissolved in 20 ml of 30% aqueous methanol are added to a solution containing 1.49 g (10 mmoles) of D-penicillamine in 30 ml of 30% methanol. After stirring for 20 hours and recrystallization from ethanol containing water, the title acid is obtained in a yield of 2.4 g (94.8%), m.p.: 207°-209° C., [α]D =+91.3° (c=0.2, dimethylformamide).

reactant | 4-hydroxybenzaldehyde | 10 mmoles, 1.26 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | D-penicillamine | 10 mmoles, 1.49 g | N[C@H](C(C)(C)S)C(=O)O | C5H11NO2S
solvent | methanol | 20 ml | CO | CH4O
solvent | methanol | 30 ml | CO | CH4O
product | 5,5-Dimethyl-2-(4-hydroxyphenyl)-thiazolidine-4(S)-carboxylic acid | CC1([C@@H](NC(S1)C1=CC=C(C=C1)O)C(=O)O)C | C12H15NO3S
